US08193199B2
To a stirred solution of (S)—N′-acetyl-8-chloro-3-(1-(1,3-dioxoisoindolin-2-yl)-ethyl)quinoline-2-carbohydrazide (85 mg, 0.19 mmol) in THF (1.5 mL) and toluene (3.0 mL) was added Lawesson's reagent (118 mg, 0.29 mmol). The reaction was heated in the microwave at 120° C. for 20 minutes and then cooled to room temperature and purified by column chromatography (SiO2, 12 g, hexanes:ethyl acetate, 1:0 to 1:1) to give 2-((S)-1-(8-chloro-2-(5-methyl-1,3,4-thiadiazol-2-yl)quinolin-3-yl)ethyl)isoindoline-1,3-dione. 1H NMR (400 MHz, CDCl3) δ ppm 8.63 (1H, s), 7.77-7.84 (4H, m), 7.70 (2H, dd, J=5.3, 2.9 Hz), 7.46-7.51 (1H, m), 7.06 (1H, q, J=7.0 Hz), 2.85 (3H, s), 2.11 (3H, d, J=7.0 Hz).

reactant | (S)—N′-acetyl-8-chloro-3-(1-(1,3-dioxoisoindolin-2-yl)-ethyl)quinoline-2-carbohydrazide | 0.19 mmol, 85 mg | C(C)(=O)NNC(=O)C1=NC2=C(C=CC=C2C=C1[C@H](C)N1C(C2=CC=CC=C2C1=O)=O)Cl | C22H17ClN4O4
reactant | Lawesson's reagent | 0.29 mmol, 118 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
product | 2-((S)-1-(8-chloro-2-(5-methyl-1,3,4-thiadiazol-2-yl)quinolin-3-yl)ethyl)isoindoline-1,3-dione | ClC=1C=CC=C2C=C(C(=NC12)C=1SC(=NN1)C)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C22H15ClN4O2S
